US06528510B1
6-tert-Butyl-5-mercapto-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester
The title compound was prepared according to General Method 14 using 6-tert-butyl-5-thiocyanato-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester (prepared in Example KK; 2.0 g, 6.6 mmol), dithiothreitol (1.21 g, 7.9 mmol), EtOH (100 mL), and phosphate buffer (pH: 7.5. 10 mL). The crude product was used without any purification.

reactant | 6-tert-butyl-5-thiocyanato-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | 6.6 mmol, 2.0 g | C(C)(C)(C)OC(=O)N1CCC2=CC(=C(C=C12)C(C)(C)C)SC#N | C18H24N2O2S
reactant | dithiothreitol | 7.9 mmol, 1.21 g | SC[C@@H](O)[C@H](O)CS | C4H10O2S2
reactant | phosphate | 10 mL, pH: 7.5 | P(=O)([O-])([O-])[O-]
solvent | EtOH | 100 mL | CCO | C2H6O
product | 6-tert-Butyl-5-mercapto-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC2=CC(=C(C=C12)C(C)(C)C)S | C17H25NO2S
